US09120805B2
A suspension of 149 mg (0.50 mmol) 6-(4-tert-butyl-phenyl)-2-hydroxymethyl-5H-pyrazolo[1,5-a]pyrazin-4-one in 1.25 ml dichloromethane is cooled to −78° C. Then 264 μl (2.00 mmol) diethylaminosulfurtrifluoride are added. The reaction mixture is allowed to reach room temperature over 30 minutes. The reaction mixture is evaporated and the residue is treated with water and saturated sodium hydrogen carbonate solution. The solids are filtered off and chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 6-(4-tert-butyl-phenyl)-2-fluoromethyl-5H-pyrazolo[1,5-a]pyrazin-4-one as white powder; HPLC/MS 2.80 min (B), [M+H] 300; 1H NMR (400 MHz, DMSO-d6) δ 11.57 (s, 1H), 8.03 (s, 1H), 7.73-7.64 (m, 2H), 7.55-7.46 (m, 2H), 7.15 (d, J=2.0 Hz, 1H), 5.52 (d, J=48.1 Hz, 2H), 1.32 (s, 9H).

reactant | 6-(4-tert-butyl-phenyl)-2-hydroxymethyl-5H-pyrazolo[1,5-a]pyrazin-4-one | 0.50 mmol, 149 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)CO)=O | C17H19N3O2
reactant | diethylaminosulfurtrifluoride | 2.00 mmol, 264 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 1.25 ml | ClCCl | CH2Cl2
product | 6-(4-tert-butyl-phenyl)-2-fluoromethyl-5H-pyrazolo[1,5-a]pyrazin-4-one | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)CF)=O | C17H18FN3O
